US05470834
To a solution of 8.34 g (38.6 mmol) of diethyl isobutylmalonate in 35 mL of 95% EtOH was added a solution of 9.0 g (161 mmol) of KOH in 110 mL of 95% EtOH. The mixture was stirred at 25° C. for 16 hours and then at reflux for 1 hour. The mixture was cooled, diluted with water and extracted with CH3Cl. The aqueous layer was cooled to 0° C. and acidified to pH<1 with 30 mL of concentrated HCl, then it was extracted with CHCl3. The aqueous layer was further continuously extracted with CHCl3 overnight. The combined organic extracts were dried over anhydrous Na2SO4 and evaporated to afford 5.44 g (33.9 mmol, 88%) of isobutylmalonic acid as a solid which was essentially pure according to 1H NMR and which was used without further purification. Characteristic analytical data are as follows: mp 108°-110° C.; 1H NMR (300 MHz, CDCl3) δ3.52 (t, J=8 Hz, 1H), 1.84 (t, J=8 Hz, 2H), 1.66 (m, 1H), 0.94 (d, J-7 Hz, 6H); 13C NMR (75 MHz, CDCl3) δ175.6 (C=O), 49.7 (CH), 37.1 (CH2), 25.7 (CH), 21.7 (CH3).

reactant | diethyl isobutylmalonate | 38.6 mmol, 8.34 g | C(C(C)C)C(C(=O)OCC)C(=O)OCC | C11H20O4
reactant | KOH | 161 mmol, 9.0 g | [OH-].[K+]
solvent | EtOH | 35 mL | CCO | C2H6O
solvent | EtOH | 110 mL | CCO | C2H6O
solvent | water | O | H2O
product | isobutylmalonic acid | 33.9 mmol, 5.44 g, 88% | C(C(C)C)C(C(=O)O)C(=O)O | C7H12O4
